US07507740B2
(ii) Production of 2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethyl methanesulfonate
tert-Butyl{2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethoxy}dimethylsilane (1.03 g) was dissolved in tetrahydrofuran (20 mL), a 1.0 M solution (4 mL) of tetrabutylammonium fluoride in tetrahydrofuran was added, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethyl acetate (20 mL), and subjected to the reaction similar to that in Example 203 (ii) using methanesulfonyl chloride (0.3 mL) and triethylamine (2 mL) to give the title compound (857 mg) as a yellow oil.

reactant | tert-Butyl{2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethoxy}dimethylsilane | 1.03 g | C(C)(C)(C)[Si](C)(C)OCCOCC1OC(OC1)(C)C | C14H30O4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | methanesulfonyl chloride | 0.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethyl methanesulfonate | 857 mg | CS(=O)(=O)OCCOCC1OC(OC1)(C)C | C9H18O6S
